US06531502B1
3-Isopropyl-4-methoxybenzaldehyde was condensed with 4-methyl-2-oxindole to give 0.25 g of 3-(3-isopropyl-4-methoxybenzylidene)-4-methyl-1,3-dihydroindol-2-one as a yellow-orange solid.

reactant | 3-Isopropyl-4-methoxybenzaldehyde | C(C)(C)C=1C=C(C=O)C=CC1OC | C11H14O2
reactant | 4-methyl-2-oxindole | CC1=C2CC(NC2=CC=C1)=O | C9H9NO
product | 3-(3-isopropyl-4-methoxybenzylidene)-4-methyl-1,3-dihydroindol-2-one | 0.25 g | C(C)(C)C=1C=C(C=C2C(NC3=CC=CC(=C23)C)=O)C=CC1OC | C20H21NO2
